* C:\SourceCode\GitHub\electronix\microelec_neamen\LTspice\chap02\exam2_01\exam2_01.asc
R1 vd1 vs 100
D1 vd1 vb 1N4148
VB vb 0 12
Vs vs 0 AC 24 SIN(0 24 1000)
.model D D
.lib C:\Users\OwnerA\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 2m 0 1000
.backanno
.end
