* C:\SourceCode\GitHub\electronix\microelec_neamen\LTspice\chap06\prob6_44\prob6_44.asc
R1 VC<>VCC VB 10k
R2 VB VEE 10k
RE VE VEE 500
RL Vout 0 300
RS VC1 vs 1k
C1 VB VC1 1µ
C2 Vout VE 1µ
vs vs 0 SINE(0 0 1k) AC 1
VCC VC<>VCC 0 9
VEE 0 VEE 9
Q1 VC<>VCC VB VE 0 2N2222
.model NPN NPN
.model PNP PNP
.lib C:\Users\OwnerA\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.backanno
.end
