* C:\SourceCode\GitHub\electronix\microelec_neamen\LTspice\chap05\prob5_30\prob5_30a.asc
Q1 VC VB 0 0 2NBetafwd80
V1 VCC VBB 3
VBB VBB 0 2
RC VCC VC 3750
RB VB VBB 130k
.model NPN NPN
.model PNP PNP
.lib C:\Users\OwnerA\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.backanno
.end
