* C:\SourceCode\GitHub\electronix\microelec_neamen\LTspice\chap05\prob5_20\prob5_20c.asc
Q1 VC VB VE 0 2NBetafwd120
VBB VB 0 1.4
VCC VCC 0 2
RC VC VCC 4k
RE VE 0 2k
.model NPN NPN
.model PNP PNP
.lib C:\Users\OwnerA\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
* +\nVCE\n-
.backanno
.end
